US06403601B1
(i) 3-Cyano-2-methoxy-5,6,7,8-tetrahydro-1-naphthalenecarbonyl chloride
A stirred mixture of 3-cyano-2-methoxy-5,6,7,8-tetrahydro-1-naphthalenecarboxylic acid (0.110 g, 0.476 mmol) and dry CH2Cl2 (2 mL) was treated with oxalyl chloride (51.9 μl) and dry N,N-dimethylformanide (˜5 μL) at ambient temperature. After 2.0 h, the solvent was evaporated in vacuo. The residue was dissolved in dry CH2Cl2 and used without further purification.

reactant | 3-cyano-2-methoxy-5,6,7,8-tetrahydro-1-naphthalenecarboxylic acid | 0.476 mmol, 0.110 g | C(#N)C=1C(=C(C=2CCCCC2C1)C(=O)O)OC | C13H13NO3
reactant | oxalyl chloride | 51.9 μl | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | 3-Cyano-2-methoxy-5,6,7,8-tetrahydro-1-naphthalenecarbonyl chloride | C(#N)C=1C(=C(C=2CCCCC2C1)C(=O)Cl)OC | C13H12ClNO2
